US07595397B2
2-Phenyl-4-(2′-chloro-5′methyl-biphenyl-4-ylmethyl)-piperazine-1-carboxylic acid methylamide
This compound could be made in the following manner: 55 mg of 3-phenyl-1-(2′-chloro-5′-methyl-biphenyl-4-ylmethyl)-piperazine would be dissolved in dichloromethane, 2 equiv. methylisocyanate would be added. The reaction would be shaken at room temperature overnight. The reaction would be concentrated in vacuo. The residue would be diluted with DCM, washed with 1M aqueous sodium hydroxide solution, then dried over sodium sulfate, filtered and concentrated in vacuo. The crude residue would be purified by column chromatography to afford the title compound as free base. Addition of 1 equiv. of 1M HCl in dioxane and concentratation in vacuo would afford the title compound as hydrochloride salt.

reactant | 3-phenyl-1-(2′-chloro-5′-methyl-biphenyl-4-ylmethyl)-piperazine | 55 mg | C1(=CC=CC=C1)C1CN(CCN1)CC1=CC=C(C=C1)C1=C(C=CC(=C1)C)Cl | C24H25ClN2
reactant | methylisocyanate | 2 equiv. | CN=C=O | C2H3NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Phenyl-4-(2′-chloro-5′methyl-biphenyl-4-ylmethyl)-piperazine-1-carboxylic acid methylamide | CNC(=O)N1C(CN(CC1)CC1=CC=C(C=C1)C1=C(C=CC(=C1)C)Cl)C1=CC=CC=C1 | C26H28ClN3O
